US09255094B2
Preparation of 1-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyrazin-2-yl)propan-2-ol (Compound No. 1-27)
To a solution of 8-chloro 2-methyl-2,3,4,5-tetrahydro-1H-pyrido (4,3-b) indole (1.0 g, 4.54 mmol) in DMF (10 mL) was added sodium hydride (600 mg, 13.63 mmol). After stirring for 10 min at RT, 2-(2-methyl oxiranyl)pyrazine (804 mg, 5.9 mmol) was added dropwise at 0-10° C. and the reaction mixture was stirred at RT for 16 h. The reaction mixture was poured into ice water and extracted with EtOAc (3×150 mL). The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to afford crude product, which was crystallized in ether-hexane to yield a yellow solid product as the free base (1.2 g). 1H NMR (DMSO, Oxalate salt) d (ppm): 8.65 (s, 1H), 8.55 (s, 1H), 8.50 (d, 1H), 7.42 (s, 1H), 7.05 (d, 1H), 6.95 (d, 1H), 4.40 (m, 4H), 3.20 (m, 2H), 3.0 (m, 2H), 2.90 (s, 3H), 1.58 (s, 3H).

reactant | 8-chloro 2-methyl-2,3,4,5-tetrahydro-1H-pyrido (4,3-b) indole | 4.54 mmol, 1.0 g | ClC1=CC=2C3=C(NC2C=C1)CCN(C3)C | C12H13ClN2
reactant | sodium hydride | 13.63 mmol, 600 mg | [H-].[Na+]
reactant | 2-(2-methyl oxiranyl)pyrazine | 5.9 mmol, 804 mg | CC1(OC1)C1=NC=CN=C1 | C7H8N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)-2-(pyrazin-2-yl)propan-2-ol | 1.2 g | ClC1=CC=2C3=C(N(C2C=C1)CC(C)(O)C1=NC=CN=C1)CCN(C3)C | C19H21ClN4O
